US06288082B1
4-(1,4-Dioxo-1,2,3,4-tetrahydro-phthalazin-6-ylamino)-6,7-diethoxy-quinoline-3-carbonitrile
A solution of 400 mg (1.44 mM) of 4-chloro-6,7-diethoxy-quinoline-3-carbonitrile and 273 mg (1.54 mM) of 4-Aminophthalhydrazide Hydrate in 15 ml of 2-methoxyethanol was refluxed for 3 hours. To the warm solution was added 1 ml of 1M sodium carbonate and the sample was heated for 5 minutes at 100° C., then poured into 300 ml of ice water. The solution was made acetic by addition of concentrated HCl and the solid was collected, washed with water followed by ether and dried under vacuum at 80° C. The solid was taken up into 200 ml of methanol and 500 μl of 5 N sodium hydroxide and boiled for 20 minutes. To this heterogeneous mixture was added 100 ml of glacial acetic acid and the volume was reduced to a total of 100 ml by boiling. To the room temperature mixture, 500 ml of ice cold water was added and the solid was collected, washed with water followed by ether and dried under vacuum at 80° C. The solid was digested in 400 ml of ethanol until the volume had been reduced to 150 ml. The hot solution was filtered and the solid was washed with ethanol and to dried under vacuum at 80° C. yield 121 mg of the title compound as a white solid: mass spectrum (electrospray, m/e): M+H 418.0, mp=>270° C.

reactant | 4-chloro-6,7-diethoxy-quinoline-3-carbonitrile | 1.44 mM, 400 mg | ClC1=C(C=NC2=CC(=C(C=C12)OCC)OCC)C#N | C14H13ClN2O2
reactant | 4-Aminophthalhydrazide Hydrate | 1.54 mM, 273 mg | O.NC=1C=C(C(C(=O)NN)=CC1)C(=O)NN
reactant | sodium carbonate | 1M, 1 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | acetic | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
reactant | HCl | Cl | ClH
solvent | 2-methoxyethanol | 15 ml | COCCO | C3H8O2
product | 4-(1,4-Dioxo-1,2,3,4-tetrahydro-phthalazin-6-ylamino)-6,7-diethoxy-quinoline-3-carbonitrile | O=C1NNC(C2=CC(=CC=C12)NC1=C(C=NC2=CC(=C(C=C12)OCC)OCC)C#N)=O | C22H19N5O4
